Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
Irrigation and clot removal from bladder (by hand)
Continuous bladder irrigation

 
History of Present Illness:
Mr. ___ is an ___ yo Male with multiple medical problems 
with a recent admission for urosepsis in the setting of an 8 mm 
right midureteral stone, who was treated with IV antibiotics, 
and percutaneous nephrostomy tube for decompression.  Following 
his discharge, the patient had undergone right ureteroscopy, 
laser lithotripsy, ureteral stent placement and removal of his 
nephrostomy tube on ___.      

He saw Dr. ___ in clinic ___ for removal of his stent, 
however, it appeared that the stent had migrated up the ureter, 
and thus could not be removed in clinic.  The patient was to 
schedule a procedure with Dr. ___ to remove the stent, 
however, he presented today to the ED c/o decreased urination 
and suprapubic pain.  Denied hematuria at home.  Several 
attempts were made to pass a foley catheter in the ED, and a 14 
F was successfully placed, putting out dark bloody urine.  Thus, 
urology was consulted regarding his hematuria, and decrease 
urine output, and abdominal pain.  

 
Past Medical History:
1. ___ Disease, severe, with dementia
2. CAD s/p STEMI ___ with PCI/stenting of LAD 
3. CHF with EF 25% in ___
4. Hypertension
5. Hyperlipidemia
6. DM on glypizide
7. Chronic bilateral shoulder pain 
8. Appendectomy
9. DVT on chronic LMW
10. UTI secondary to obstructive ureteral stone, s/p nephrostomy 
___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Afebrile, VSS
Elderly gentleman, bedbound. NAD.  
Unlabored breathing.
Abdomen ND, soft, NTTP.  No suprapubic pain or CVA tenderness.
Foley catheter in place with clear yellow urine, no clots.
Pneumoboots on, extremities WWP

 
Pertinent Results:
___ 06:55AM BLOOD WBC-7.2 RBC-3.38* Hgb-9.4* Hct-29.7* 
MCV-88 MCH-27.9 MCHC-31.7 RDW-15.4 Plt ___
___ 06:20AM BLOOD WBC-7.4 RBC-3.43* Hgb-9.7* Hct-29.6* 
MCV-86 MCH-28.2 MCHC-32.8 RDW-14.6 Plt ___
___ 09:15AM BLOOD WBC-10.1# RBC-4.06* Hgb-11.4* Hct-36.0* 
MCV-89 MCH-28.0 MCHC-31.6 RDW-14.9 Plt ___
___ 09:15AM BLOOD Neuts-80.5* Lymphs-15.0* Monos-2.3 
Eos-1.8 Baso-0.3
___ 06:55AM BLOOD Plt ___
___ 06:20AM BLOOD Plt ___
___ 10:06AM BLOOD ___ PTT-31.3 ___
___ 09:15AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-88 UreaN-13 Creat-0.7 Na-146* 
K-4.0 Cl-108 HCO3-30 AnGap-12
___ 06:20AM BLOOD Glucose-138* UreaN-15 Creat-0.6 Na-138 
K-4.0 Cl-104 HCO3-27 AnGap-11
___ 09:15AM BLOOD Glucose-149* UreaN-21* Creat-0.9 Na-140 
K-4.8 Cl-106 HCO3-26 AnGap-13
___ 09:15AM URINE Color-Straw Appear-Hazy Sp ___
___ 09:15AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 09:15AM URINE RBC-135* WBC->182* Bacteri-FEW Yeast-MANY 
Epi-0
 
Brief Hospital Course:
Mr. ___ was admitted for managment of hematuria, likely 
caused by traumatic foley catheter placement in the setting of a 
history of enlarged prostate, and anticoagulation with lovenox.  
He was also having some abdominal pain, likely secondary to 
urinary retention.  This improved with the placment of a foley 
catheter and after evacuation of clots in the bladder.  After 
clot evacuation, he required CBI overnight and his urine cleared 
without clots on HD#1.  His lovenox was held until his hematuria 
resolved. It was determined that his ureteral stent did not need 
to be emergently removed.  He had no evidence of perforation as 
seen by CT, and correlated clinically on exam.  His UA was 
significant for infection, and he was started on Cipro.  His 
abdominal pain was significantly improved on HD#1, however 
remained in house until VNS services was available for him.  
Thus he was discharge on HD #5, with no fevers, no pain, foley 
catheter draining clear yellow urine with adequate output, 
tolerating a soft mechanical diet and at baseline activity 
level.    

 
 
Medications on Admission:
atorvastatin 80 mg daily
sinemet 12.5 mg/50 mg TID
enoxaparin 100 mg sc daily
glipizide xl 10 mg daily
metoprolol 100 mg daily
mirtazapine 30 mg po qhs
donepezil 10 mg daily
seroquel 12.5 mg daily
 
Discharge Medications:
1. Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin 250 mg ONE tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
2. Enoxaparin Sodium 100 mg SC DAILY 
60mg syringe with 40mg syringe for total daily dose of 100mg 
3. GlipiZIDE XL 10 mg PO DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
hold for sbp <100, hr<60 
6. Mirtazapine 30 mg PO HS 
7. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth Q6hrs Disp 
#*20 Tablet Refills:*0
8. Quetiapine Fumarate 12.5 mg PO BID 
9. Carbidopa-Levodopa (___) 0.5 TAB PO BID 
0.5 tablet twice per day 
10. Atorvastatin 80 mg PO DAILY 
11. Acetaminophen 325 mg PO Q6H:PRN pain 
12. Donepezil 10 mg PO HS 
13. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection, hematuria, ureteral stent migration

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.
Activity Status: Out of Bed with assistance to chair or 
wheelchair; known to be unable to perform activities of daily 
living. Lives at home with wife AND live-in caretaker.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

-Please also review the provided handout w/nursing instructions 
on Foley catheter care and leg bag usage

-Resume your pre-admission/home medications INCLUDING LOVENOX, 
except as noted. Always call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care doctor

-___ may use ___ for pain control

-The MAXIMUM dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY and remember that the prescribed narcotic 
pain medication may also contain Tylenol (acetaminophen) so this 
needs to be considered when monitoring your daily dose and 
maximum.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in ___ weeks for definitive STENT management and 
foley removal. Until then, DO NOT have anyone else other than 
your Surgeon remove your Foley for any reason.

-Wear Large Foley bag for majority of time, leg bag is only for 
short-term when leaving house.

-Complete the prescribed antibiotic (Ciprofloxacin)

-resume your regular home diet and remember to drink plenty of 
fluids to keep hydrated and to prevent constipation

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

-You have an indwelling ureteral stent that MUST be removed 
and/or exchanged in the next few weeks time. Please follow-up as 

advised.

You may experience some “normal” discomfort or pain associated 
with spasm of your ureter.  This is especially true when there 
is an INDWELLING URETERAL STENT. 

-Expect to see occasional blood in your urine and to experience 
urgency and frequency over the next month.

-You may experience some pain associated with spasm of your 
ureter. This is normal. 

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol
 
Followup Instructions:
___